* C:\Users\konta\Desktop\LightAlarm\Main alarm box\active_buzzer_circuit.asc
Q1 N002 N003 N004 0 2N2222
RE N004 0 70
Vcc N001 0 15
V§Arduino_Digtial_Pin N003 0 5
R§b1 N001 N002 200
R§b2 N001 N002 200
R§b3 N001 N002 200
RB NC_01 NC_02 7k
.model NPN NPN
.model PNP PNP
.lib C:\Users\konta\Documents\LTspiceXVII\lib\cmp\standard.bjt
* resistors are used to model active buzzers\ntheir resistance is a guess as no value was specified on their data sheet
.tran 5
* insert RB and remove RE to change biasing scheme
.backanno
.end
